US08193164B2
N-{(1S,2R,3S,4R)-4-[6-((S)-1-Benzyl-2-hydroxy-ethylamino)-2-chloro-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide is prepared analogously to N-{(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide by replacing N-[(1S,2R,3S,4R)-4-(2,6-dichloro-purin-9-yl)-2,3-dihydroxy-cyclopentyl]-propionamide, with acetic acid [(1S,2R,3S,4R)-4-(2,6-dichloro-purin-9-yl)-2,3-dihydroxy-cyclopentylcarbamoyl]-methyl ester (Intermediate FA) and replacing 2,2-diphenylethylamine with (4Z,6Z)-(S)-phenylalinol.

reactant | N-{(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29ClN6O3
reactant | N-[(1S,2R,3S,4R)-4-(2,6-dichloro-purin-9-yl)-2,3-dihydroxy-cyclopentyl]-propionamide | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)Cl | C13H15Cl2N5O3
reactant | acetic acid [(1S,2R,3S,4R)-4-(2,6-dichloro-purin-9-yl)-2,3-dihydroxy-cyclopentylcarbamoyl]-methyl ester | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(=O)COC(C)=O)O)O)Cl | C14H15Cl2N5O5
reactant | 2,2-diphenylethylamine | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
product | N-{(1S,2R,3S,4R)-4-[6-((S)-1-Benzyl-2-hydroxy-ethylamino)-2-chloro-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide | C(C1=CC=CC=C1)[C@@H](CO)NC1=C2N=CN(C2=NC(=N1)Cl)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O | C21H25ClN6O5
